US07807672B2
Preparation of 5-(4-piperazin-1-yl-phenyl)-pyrimidin-2-ylamine
A mixture of 5-(4-bromo-phenyl)-pyrimidin-2-ylamine (100 mg, 0.401 mmol), palladium acetate (20 mg, 0.089 mmol), cesium carbonate (200 mg, 0.62 mmol), piperazine (100 mg, 1.16 mmol) and 2-di-t-butylphosphino)-biphenyl (50 mg, 0.167 mmol) was stirred in dioxane:water (10 ml, v/v 5:1) at reflux temperature for 4 hours. The reaction was cooled, diluted with MeCl2 (100 ml) and H2O (50 ml). The organic layer was separated, dried (MgSO4), filtered and solvent evaporated. The residue was purified by chromatography eluting with 100% EtOAc then with 10% v/v MeOH/EtOAc/NH4OH yielding product 82 as a white solid. (70 mg. 68%) ESMS (MH, 256).

reactant | 5-(4-bromo-phenyl)-pyrimidin-2-ylamine | 0.401 mmol, 100 mg | BrC1=CC=C(C=C1)C=1C=NC(=NC1)N | C10H8BrN3
reactant | cesium carbonate | 0.62 mmol, 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | piperazine | 1.16 mmol, 100 mg | N1CCNCC1 | C4H10N2
reactant | biphenyl | 0.167 mmol, 50 mg | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | MeCl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
catalyst | palladium acetate | 0.089 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 10 ml | O | H2O
product | 5-(4-piperazin-1-yl-phenyl)-pyrimidin-2-ylamine | N1(CCNCC1)C1=CC=C(C=C1)C=1C=NC(=NC1)N | C14H17N5
